US07498440B2
Preparation of 4-[bis(4-fluorophenyl)(hydroxy)methyl]-1-{2-[(phenylmethyl)oxy]ethyl}-1-azoniabicyclo[2.2.2]octane bromide
Following the general procedure outlined in Example 3, 1-azabicyclo[2.2.2]oct-4-yl[bis(4-fluorophenyl)]methanol (0.0489 g, 0.148 mmol) and 2-bromoethyl phenylmethyl ether (0.0352 mL, 0.222 mmol) in 2 CH3CN/3 CHCl3 (4.0 mL) were reacted to give the desired product (0.0534 g, 66.1%). EI-MS m/z 464(M+) Rt (1.99 min).

reactant | 1-azabicyclo[2.2.2]oct-4-yl[bis(4-fluorophenyl)]methanol | 0.148 mmol, 0.0489 g | N12CCC(CC1)(CC2)C(O)(C2=CC=C(C=C2)F)C2=CC=C(C=C2)F | C20H21F2NO
reactant | 2-bromoethyl phenylmethyl ether | 0.222 mmol, 0.0352 mL | C1(=CC=CC=C1)COCCBr | C9H11BrO
solvent | CH3CN | 4.0 mL | CC#N | C2H3N
product | 4-[bis(4-fluorophenyl)(hydroxy)methyl]-1-{2-[(phenylmethyl)oxy]ethyl}-1-azoniabicyclo[2.2.2]octane bromide | 0.0534 g, 66.1% | [Br-].FC1=CC=C(C=C1)C(C12CC[N+](CC1)(CC2)CCOCC2=CC=CC=C2)(O)C2=CC=C(C=C2)F | InChI=1S/C29H32F2NO2.BrH/c30-26-10-6-24(7-11-26)29(33,25-8-12-27(31)13-9-25)28-14-17-32(18-15-28,19-16-28)20-21-34-22-23-4-2-1-3-5-23;/h1-13,33H,14-22H2;1H/q+1;/p-1
